US08809369B2
To a suspension of 60% sodium hydride (664 mg, 16.6 mmol) in N,N-dimethylformamide (5 mL) was added cyclopropanesulfonic acid amide (2.01 g, 16.6 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A66. A solution of 4,4,8-trimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (0.9 g, 2.37 mmol) and 1,1′-carbonyldiimidazole (768 mg, 4.74 mmol) in N,N-dimethylformamide (5 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B66. Solution B66 was added to Solution A66 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded cyclopropanesulfonic acid [4,4,8-trimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-amide (107 mg, 9%) as a brown solid: MS (ESI) M+1=484.2.

reactant | sodium hydride | 16.6 mmol, 664 mg | [H-].[Na+]
reactant | cyclopropanesulfonic acid amide | 16.6 mmol, 2.01 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | 4,4,8-trimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 2.37 mmol, 0.9 g | CC1(CC(NC2=C(C=C(C=C12)C(=O)O)C)C1=CC(=CC=C1)N1CCOCC1)C | C23H28N2O3
reactant | 1,1′-carbonyldiimidazole | 4.74 mmol, 768 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | cyclopropanesulfonic acid [4,4,8-trimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-amide | 107 mg, 9% | CC1(CC(NC2=C(C=C(C=C12)C(=O)NS(=O)(=O)C1CC1)C)C1=CC(=CC=C1)N1CCOCC1)C | C26H33N3O4S
